US05616754
Synthesis of bis-(bis-trimethylsilylamino)-methylsilane
Dry N-lithio-hexamethyldisilazane (81 g, 0.50 moles) was transferred to a dry reaction flask under argon. Bis-(trimethylsilyl)-methylchlorosilylamine (144 g, 0.60 moles) was then added directly to the reaction flask under argon. The flask was then fitted with a reflux condenser, purged with argon and maintained under an argon atmosphere. The temperature in the flask was then raised to 110° C. and maintained at this temperature until all of the solids had melted. The mixture was swirled thoroughly to obtain a homogeneous mixture. The temperature of the reaction mixture was then incrementally increased to 170° C. over 3 hours in 20° C. increments. The reaction flask was held at 170° C. for 48 hours. The reaction mixture was then cooled and separated from lithium chloride which had formed by flash distillation. The distillation yielded a clear distillate of the crude product. This crude product was then purified by fractional distillation under argon to yield the title compound.

reactant | N-lithio-hexamethyldisilazane | 0.50 moles, 81 g | [Li]N([Si](C)(C)C)[Si](C)(C)C
reactant | Bis-(trimethylsilyl)-methylchlorosilylamine | 0.60 moles, 144 g | C[Si](C)(C)[Si](Cl)(NC)[Si](C)(C)C | C7H22ClNSi3
product | bis-(bis-trimethylsilylamino)-methylsilane | C[Si](C)(C)N([Si](C)(C)C)[SiH](C)N([Si](C)(C)C)[Si](C)(C)C | C13H40N2Si5
